US07776888B2
Bicyclo[3.2.1]oct-6-ene-2,4-dione
One-pot process: 100 mg (0.39 mmol) of 3-bromo-4,4-(1′,2′-ethylenedioxy)-bicyclo[3.2.1]-oct-6-en-2-one are taken up in concentrated acetic acid and treated at ambient temperature with 80 mg (1.16 mmol) of zinc powder. The progress of the reaction is monitored by means of thin-layer chromatography (mobile phase: hexane/ethyl acetate 1:1). When after 2 hours brominated starting material can no longer be detected, the reaction mixture is heated continuously at a temperature of 95° C. After a further 2 hours, according to thin-layer chromatography all the reference material 4,4-(1′,2′-ethylenedioxy)-bicyclo[3.2.1]oct-6-en-2-one has reacted. The reaction mixture is filtered and concentrated in vacuo. The residue is treated with saturated sodium hydrogen carbonate solution and extracted three times with ethyl acetate. The alkaline aqueous phase is adjusted to pH 3-4 with dilute hydrochloric acid and extracted three times with fresh ethyl acetate. After drying of the organic phase over sodium sulfate and subsequent concentration by evaporation, 45 mg (85% of theory) of technically pure bicyclo[3.2.1]oct-6-ene-2,4-dione are obtained.

reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.16 mmol, 80 mg | [Zn] | Zn
product | Bicyclo[3.2.1]oct-6-ene-2,4-dione | C12C(CC(C(C=C1)C2)=O)=O | C8H8O2
